US08420863B2
Coupling of 3-iodobenzaldehyde with (2-methylbenzyl)triphenylphosphonium bromide followed by flash chromatography (silica gel, eluent: hexanes) gave (E)-1-(3-iodostyryl)-2-methylbenzene as a colorless oil. Yield (0.498 g, 36%): 1H NMR (500 MHz, CDCl3) δ 7.87-7.86 (m, 1H), 7.59-7.55 (m, 2H), 7.45 (d, J=7.8 Hz, 1H), 7.30 (d, J=16.2 Hz, 1H), 7.23-7.18 (m, 3H), 7.09 (t, J=7.9 Hz, 1H), 6.86 (d, J=16.2 Hz, 1H), 2.43 (s, 3H) and (Z)-1-(3-iodostyryl)-2-methylbenzene as a colorless oil. Yield (0.0.540 g, 39%): 1H NMR (500 MHz, CDCl3) δ 7.47-7.45 (m, 2H), 7.21-7.15 (m, 2H), 7.11-7.01 (m, 3H), 6.85 (t, J=7.8 Hz, 1H), 6.68 (d, J=12.2 Hz, 1H), 6.49 (d, J=12.1 Hz, 1H), 2.26 (s, 3H).

reactant | 3-iodobenzaldehyde | IC=1C=C(C=O)C=CC1 | C7H5IO
reactant | (2-methylbenzyl)triphenylphosphonium bromide | [Br-].CC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1
product | (E)-1-(3-iodostyryl)-2-methylbenzene | IC=1C=C(/C=C/C2=C(C=CC=C2)C)C=CC1 | C15H13I
